US05378846
A mixture of 2.05 g of morpholine hydrochloride, 1.24 g of a 40% solution of formaldehyde, and 3.4 g of 2-benzoyl-1,2,3,4-tetrahydropyrrolo-[1,2-a]-pyrazine was stirred for 4 hours at room temperature. 10 ml of water, alkalized with a 25% solution of ammonia, was added to the reaction mass and the product was extracted with benzene. The benzene solution was filtered through a column of aluminium oxide and the benzene was removed by distillation to give 2.2 g (67.5%) of 2-benzoyl-6-(morpholinomethyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine. This compound was prepared in the form of a noncrystalline oil. Nmr (CDCl3): δ2.1-2.4 (m) (4H, CH2); 3.3 (s) (2H, CH2N); 3.5-3.6 (m) (4H, CH2); 3.7-4.0 (m) (4H, 3,4-CH2); 4.6 (s) (2H, 1-CH2); 5.6-5.7 (m) (1H, 7-H); 5.8-5.9 (m) 1H, 8H); 7.3-7.4 (5H, C6H5). Anal. calculated for C19H23N3O2 : C 70.13%; H 7.12%; N 12.91% and found: C 70.36%; H 7.19%; N 12.75%.

reactant | morpholine hydrochloride | 2.05 g | Cl.N1CCOCC1
reactant | formaldehyde | C=O | CH2O
reactant | 2-benzoyl-1,2,3,4-tetrahydropyrrolo-[1,2-a]-pyrazine | 3.4 g | C(C1=CC=CC=C1)(=O)N1CC=2N(CC1)C=CC2 | C14H14N2O
reactant | ammonia | N | H3N
solvent | water | 10 ml | O | H2O
product | 2-benzoyl-6-(morpholinomethyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine | 2.2 g, 67.5% | C(C1=CC=CC=C1)(=O)N1CC=2N(CC1)C(=CC2)CN2CCOCC2 | C19H23N3O2
